* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N032 0 PULSE(0 48 0 10m 4m 200m 5 1)
V§BATT_1 N030 0 PULSE(0 16.8 0 10m 10m 500m 5 1)
V§BATT_2 N029 0 PULSE(0 16.8 0 10m 100m 10 11 1)
R1 UMBILICAL N028 10000
R2 N028 0 1750
C2 Umbilical_comparator 0 100n
A7 BATT_2_comparator LOGIC_POWER 0 0 0 0 N046 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A8 BATT_1_comparator LOGIC_POWER 0 0 0 N045 N042 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A9 Umbilical_comparator LOGIC_POWER 0 0 0 N041 Umbilical_gate_control_logic_output 0 SCHMITT Trise=20u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 5u
R8 N028 Umbilical_comparator 1000
B§UMBILICAL_Noise UMBILICAL N032 V=white(2e4*time) / 13
BATT_1_Noise BATT_1 N030 V=white(2e4*time) / 13
BATT_2_Noise BATT_2 N029 V=white(2e4*time) / 13
R3 BATT_1 N033 10000
R4 N033 0 5400
R6 BATT_2 N036 10000
R12 N036 0 5400
C7 N039 0 1n
C8 LOGIC_POWER 0 4.7µ Rser=1.5m
X§U1 LDO_POWER LOGIC_POWER LDO_POWER N039 LOGIC_POWER 0 ADM7170-5.0
A1 N041 0 0 0 N042 0 BATT_1_gate_control_logic_output 0 AND Vhigh = 5, Td = 33n, Tfall = 10u
A2 N041 0 N045 0 N046 0 BATT_2_gate_control_signal_logic_output 0 AND Vhigh = 5, Td = 33n, Tfall = 30n, Trise = 10u
C11 BATT_1_comparator 0 100n
R32 N033 BATT_1_comparator 1000
C12 BATT_2_comparator 0 100n
R33 N036 BATT_2_comparator 1000
D1 BATT_2 LDO_POWER D
D2 BATT_1 LDO_POWER D
D4 UMBILICAL LDO_POWER D
A4 N001 N005 N009 N010 0 0 N006 0 AND Vhigh = 5, Td = 9n
A5 Deny_Signal 0 Umbilical_gate_control_logic_output 0 N013 0 N012 0 AND Vhigh = 5, Td = 33n
A12 UMBILICAL OUTPUT_RAIL 0 0 0 0 N013 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A13 Deny_Signal 0 BATT_1_gate_control_logic_output 0 N017 0 N016 0 AND Vhigh = 5, Td = 33n
A14 BATT_1 OUTPUT_RAIL 0 0 0 0 N017 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A15 Deny_Signal 0 BATT_2_gate_control_signal_logic_output 0 N019 0 N018 0 AND Vhigh = 5, Td = 33n
A16 BATT_2 OUTPUT_RAIL 0 0 0 0 N019 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
M7 BATT_2_gate_control_signal N002 BATT_2_gate_control_signal_logic_output BATT_2_gate_control_signal_logic_output Si1555DL_P
A3 Umbilical_gate_control_signal 0 0 0 0 N001 0 0 BUF Vhigh = 5, Td = 9n
M1 BATT_1_gate_control_signal N003 BATT_1_gate_control_logic_output BATT_1_gate_control_logic_output Si1555DL_P
M6 Umbilical_gate_control_signal N004 Umbilical_gate_control_logic_output Umbilical_gate_control_logic_output Si1555DL_P
C10 RESET_GATE 0 20n
R17 N014 0 10000
R36 RESET_GATE N014 10000
R16 N020 N014 1000
R38 N008 N007 330
R34 N002 SIGNAL_MOSFET 220
R35 N003 SIGNAL_MOSFET 220
R37 N004 SIGNAL_MOSFET 220
R48 SIGNAL_MOSFET 0 10000
M11 SIGNAL_MOSFET N008 LOGIC_POWER LOGIC_POWER Si1555DL_P
R5 N007 0 10000
A11 N006 0 N011 0 0 N007 Deny_Signal 0 DFLOP Vhigh = 5
A20 N006 RESET_CLK 0 0 0 0 N011 0 OR Vhigh = 5
D5 RESET_GATE N020 D
C15 RESET_CLK 0 40n
R13 N014 0 10000
R39 RESET_CLK N014 10000
R40 N015 N014 1000
D6 RESET_CLK N015 D
A10 N012 0 N016 0 N018 0 N014 0 OR Vhigh = 5, Td = 33n
A6 BATT_1_gate_control_signal 0 0 0 0 N005 0 0 BUF Vhigh = 5, Td = 9n
A17 BATT_2_gate_control_signal 0 0 0 0 N009 0 0 BUF Vhigh = 5, Td = 9n
A18 RESET_GATE 0 0 0 0 N010 0 0 BUF Vhigh = 5, Td = 9n
R18 SIGNAL_MOSFET P001 220
C14 P001 0 1n
M14 BATT_1 N031 N026 N026 Si7469DP
M15 OUTPUT_RAIL N031 N027 N027 Si7469DP
R42 N026 N031 8000
C19 N027 N031 10p
D7 N031 N027 EDZV13B
R43 N031 N034 910
M16 N034 N035 0 0 BSC047N08NS3
R44 N031 0 10e5
R45 N035 BATT_1_gate_control_signal 220
R46 BATT_1_gate_control_signal 0 10000
C20 N035 0 10p
M10 BATT_2 N040 N037 N037 Si7469DP
M12 OUTPUT_RAIL N040 N038 N038 Si7469DP
R19 N037 N040 10000
C18 N038 N040 10p
D3 N040 N038 EDZV13B
R20 N040 N043 910
M13 N043 N044 0 0 BSC047N08NS3
R41 N040 0 10e5
R47 N044 BATT_2_gate_control_signal 220
R49 BATT_2_gate_control_signal 0 10000
C21 N044 0 10p
M17 UMBILICAL N023 N021 N021 Si7469DP
M18 OUTPUT_RAIL N023 N022 N022 Si7469DP
R50 N021 N023 10000
C22 N022 N023 10p
M19 N024 N025 0 0 BSC047N08NS3
R51 N023 0 10e5
R52 N025 Umbilical_gate_control_signal 220
R53 Umbilical_gate_control_signal 0 10000
C23 N025 0 10p
D9 N023 N022 EDZV22B
R54 N023 N024 10000
R55 0 OUTPUT_RAIL 5
R§BATT2_ESR N038 N037 0.01
R9 N027 N026 0.01
R10 N022 N021 0.01
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* Need to switch all the output signals to not invert the signal
* common switch debouncing values
* ORing diodes or or gate, this needs to supply some current to turn on the transmission gate so idk?
* Maybe use transmission gates here or something (single rail transmission gates)
* If the propogation delay is high, then the and gate wont read a fast switch over event, maybe add some sort of delay so down time is more easier to detect.
* Any decoupling capacitors here?
* Voltage divider so when the umbilical falls below 30V this switches off
.lib ADM7170-5.0.sub
.backanno
.end
